US07868181B2
Intermediate 5: 1-[3-(3,4-dichlorophenyl)prop-2-yn-1-yl]-1H-indole-2,3-dione
To a mixture of 1-prop-2-yn-1-yl-1H-indole-2,3-dione (190 mg, 1.03 mmol), 1,2-dichloro-4-iodobenzene (420 mg, 1.54 mmol), copper(I) iodide (11.0 mg, 0.06 mmol) and triphenylphosphine (40.0 mg, 0.15 mmol) in degassed DMF (24 mL) was added triethyl-amine (307 μL, 2.15 mmol). The reaction was stirred for 5 minutes and Pd(OAc)2 (13.0 mg, 0.06 mmol) was then added. The reaction was stirred at room temperature for 2 days, concentrated in vacuo, dissolved in EtOAc and washed with saturated NaHCO3(aq) (1×). The layers were separated and the aqueous layer was extracted with additional EtOAc (2×).

reactant | 1-prop-2-yn-1-yl-1H-indole-2,3-dione | 1.03 mmol, 190 mg | C(C#C)N1C(C(C2=CC=CC=C12)=O)=O | C11H7NO2
reactant | 1,2-dichloro-4-iodobenzene | 1.54 mmol, 420 mg | ClC1=C(C=C(C=C1)I)Cl | C6H3Cl2I
reactant | triphenylphosphine | 0.15 mmol, 40.0 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethyl-amine | 2.15 mmol, 307 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 24 mL | CN(C)C=O | C3H7NO
catalyst | copper(I) iodide | 0.06 mmol, 11.0 mg | [Cu]I
catalyst | Pd(OAc)2 | 0.06 mmol, 13.0 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 1-[3-(3,4-dichlorophenyl)prop-2-yn-1-yl]-1H-indole-2,3-dione | ClC=1C=C(C=CC1Cl)C#CCN1C(C(C2=CC=CC=C12)=O)=O | C17H9Cl2NO2
